US09212171B2
Step 2: 1,6,6-Trimethyl-piperidin-2-one
To a solution of a 3 to 1 mixture of 3,3-dimethylpiperidin-2-one and 6,6-dimethylpiperidine-2-one (4.72 g, 37.1 mmol) in 60 ml of THF was added 60% sodium hydride suspension (1.93g, 48.2 mmol). The grey reaction mixture was stirred at room temperature for 30 minutes. Then methyl iodide (3.02 ml, 48.2 mmol) was added and the reaction mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, and worked up with ethyl acetate/water. The orange oil was chromatographed over a prepacked 70 g silica column After elution with a 50% to 100% ethyl acetate in heptane gradient, the fractions containing the desired product were collected to yield 2.46 g (47%) of the title compound as a light yellow solid; and 0.91 g (17%) of isomeric 1,3,3-trimethyl-piperidin-2-one as a yellow oil.

reactant | 3,3-dimethylpiperidin-2-one | CC1(C(NCCC1)=O)C | C7H13NO
reactant | 6,6-dimethylpiperidine-2-one | 37.1 mmol, 4.72 g | CC1(CCCC(N1)=O)C | C7H13NO
reactant | sodium hydride | 48.2 mmol, 1.93g | [H-].[Na+]
reactant | methyl iodide | 48.2 mmol, 3.02 ml | CI | CH3I
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1,6,6-Trimethyl-piperidin-2-one | 2.46 g, 47% | CN1C(CCCC1(C)C)=O | C8H15NO
